US07714010B2
(A2) 5-Amino-1-ethyl-3,3-dimethyl-6-nitro-1.3-dihydro-indol-2-one
Analogously to general procedure (I) N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide (0.75 g) is alkylated using ethyl iodide (0.5 ml; 5.7 mmol) and K2CO3 (1.6 g; 11.6 mmol) at 55° C. for 7 h. After aqueous work-up the crude alkylated acetamide (0.8 g; 2.74 mmol) is de-acetylated under reflux conditions in 2-propanol (3 ml) and hydrochloric acid (5 ml). After aqueous work-up the crude 5-amino-1-ethyl-3,3-dimethyl-6-nitro-1,3-dihydro-indol-2-one (0.6 g) is used without further purification.

reactant | N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide | 0.75 g | CC1(C(NC2=CC(=C(C=C12)NC(C)=O)[N+](=O)[O-])=O)C | C12H13N3O4
reactant | ethyl iodide | 5.7 mmol, 0.5 ml | C(C)I | C2H5I
reactant | K2CO3 | 11.6 mmol, 1.6 g | C(=O)([O-])[O-].[K+].[K+]
solvent | 2-propanol | 3 ml | CC(C)O | C3H8O
solvent | hydrochloric acid | 5 ml | Cl | ClH
product | 5-Amino-1-ethyl-3,3-dimethyl-6-nitro-1.3-dihydro-indol-2-one | NC=1C=C2C(C(N(C2=CC1[N+](=O)[O-])CC)=O)(C)C | C12H15N3O3
